US09216992B2
(E)-3-(4-Bromo-thiophen-2-yl)-acryloyl azide
A suspension of (E)-3-(4-bromo-thiophen-2-yl)-acrylic acid (3.0 g, 12.9 mmol) in anhydrous acetone (20 ml) was cooled in an ice-bath to 0° C. and treated with triethylamine (2.15 ml, 15.4 mmol) and ethyl chloroformate (1.24 ml, 15.4 mmol). The reaction was left to stir for 0.5 h before being treated with a solution of sodium azide (1.0 g, 15.4 mmol) in distilled water (4 ml). After stirring for 1 h at 0° C., the reaction was further diluted with distilled water (40 ml) and extracted with DCM (3×25 ml). The organic layer was dried (MgSO4) and filtered for direct use in the next reaction.

reactant | (E)-3-(4-bromo-thiophen-2-yl)-acrylic acid | 12.9 mmol, 3.0 g | BrC=1C=C(SC1)/C=C/C(=O)O | C7H5BrO2S
reactant | triethylamine | 15.4 mmol, 2.15 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 15.4 mmol, 1.24 ml | ClC(=O)OCC | C3H5ClO2
reactant | sodium azide | 15.4 mmol, 1.0 g | [N-]=[N+]=[N-].[Na+]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
solvent | water | 4 ml | O | H2O
solvent | water | 40 ml | O | H2O
product | (E)-3-(4-Bromo-thiophen-2-yl)-acryloyl azide | BrC=1C=C(SC1)/C=C/C(=O)N=[N+]=[N-] | C7H4BrN3OS
